US07939537B2
Step 4: Benzyl (2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidin-9-yl)carbamate
To a suspension of methyl 9-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-oxo-4-H-pyrido[1,2-a]pyrimidine-2-carboxylate in MeOH was added p-fluorobenzylamine. The suspension was stirred at 80° C. and after 16 hours the solvent was removed under reduced pressure. The product was purified by preparative RP-HPLC, using water (0.1% TFA) and acetonitrile (0.1% TFA) as eluants (column: C18). The product was obtained after lyophilization of the pooled product fractions as bright yellow fluffy material.

reactant | methyl 9-{[(benzyloxy)carbonyl]amino}-3-hydroxy-4-oxo-4-H-pyrido[1,2-a]pyrimidine-2-carboxylate | C(C1=CC=CC=C1)OC(=O)NC1=CC=CN2C1=NC(=C(C2=O)O)C(=O)OC | C18H15N3O6
reactant | p-fluorobenzylamine | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | MeOH | CO | CH4O
product | Benzyl (2-{[(4-fluorobenzyl)amino]carbonyl}-3-hydroxy-4-oxo-4H-pyrido[1,2-a]pyrimidin-9-yl)carbamate | FC1=CC=C(CNC(=O)C=2N=C3N(C(C2O)=O)C=CC=C3NC(OCC3=CC=CC=C3)=O)C=C1 | C24H19FN4O5
